US06090820
(S)-N-[[3-[3-fluoro4-[cis-3-(hydroxyacetyl)-3,7-diazabicyclo[3.3.0]octan-7-yl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
The (S)-N-[[3-[3-fluoro-4-[cis-3-(benzyloxyacetyl)-3,7-diazabicyclo[3.3.0]octan-7-yl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (110 mg, 0.22 mmol), methanol (25 mL) and 10% palladium on carbon (100 mg) are combined and placed under 40 p.s.i. of hydrogen and shaken for 5 days. The reaction is filtered through celite, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with chloroform/methanol (95/5). The appropriate fractions are combined (Rf =0.20, TLC, chloroform/methanol, 90/10) and concentrated in vacuo to give the title compound, mp 167-168° C.

reactant | (S)-N-[[3-[3-fluoro-4-[cis-3-(benzyloxyacetyl)-3,7-diazabicyclo[3.3.0]octan-7-yl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.22 mmol, 110 mg | FC=1C=C(C=CC1N1C[C@@H]2CN(C[C@@H]2C1)C(COCC1=CC=CC=C1)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C27H31FN4O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 25 mL | CO | CH4O
product | (S)-N-[[3-[3-fluoro4-[cis-3-(hydroxyacetyl)-3,7-diazabicyclo[3.3.0]octan-7-yl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | FC=1C=C(C=CC1N1C[C@@H]2CN(C[C@@H]2C1)C(CO)=O)N1C(O[C@H](C1)CNC(C)=O)=O | C20H25FN4O5
